US08383644B2
To a solution of (S)-3-(4-bromo-phenyl)-2-tert-butox ylcarbonylamino-propionic acid methyl ester (10.74 g) in DMF (200 mL) was added bis(pinacolato)diboron (15.24 g), KOAc (8.82 g), and PdCl2(dppf) (2.45 g). The mixture was purged with nitrogen and stirred under nitrogen at 75° C. for 3 h. It was then cooled to rt and poured into water-EtOAc. The organic layer was washed with water and saturated brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography (hexanes-EtOAc) to provide (S)-2-tert-butoxycarbonylamino-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid methyl ester (10.26 g). LCMS (m/z) 407.

reactant | (S)-3-(4-bromo-phenyl)-2-tert-butox ylcarbonylamino-propionic acid methyl ester | 10.74 g | COC([C@H](CC1=CC=C(C=C1)Br)NC(=O)OC(C)(C)C)=O | C15H20BrNO4
reactant | bis(pinacolato)diboron | 15.24 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 8.82 g | CC(=O)[O-].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 2.45 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-2-tert-butoxycarbonylamino-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid methyl ester | 10.26 g | COC([C@H](CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)OC(C)(C)C)=O | C21H32BNO6
